US04889857
By the use of 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(2formylaminoethyl)morpholine, the reaction is similarly carried out as Example 26 to give 1-(2,4-difluorophenyl)-6,8-difluoro-7-[2-(2-formylaminoethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | 2-(2formylaminoethyl)morpholine | C(=O)NCCC1CNCCO1 | C7H14N2O2
product | 1-(2,4-difluorophenyl)-6,8-difluoro-7-[2-(2-formylaminoethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CCNC=O)F)=O)C(=O)O | C23H19F4N3O5
